US07625880B2
To a 200 mL round bottom flask equipped with a stir bar was added 2-(2,6-dichloro-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one (2.4 g, 6.2 mmol), selenium dioxide (2.0 g, 18 mmol) and dioxane (150 mL). The flask was fitted with a condenser and heated to reflux for 4.5 h. The reaction was then removed from heat and allowed to cool to room temperature. The slightly opaque solution was filtered through celite and washed with dichloromethane:methanol (9:1). The solution was concentrated and the resulting residue triturated with dichloromethane to produce 2-(2,6-dichloro-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde (1.8 g, 72%) as a brownish yellow solid, which was used without further purification. 1H NMR (400 MHz, DMSO-d6+TFA) δ 10.65 (s, 1H), 10.24 (s, 1H), 7.96 (d, 1H, J=8.6 Hz), 7.78 (d, 1H, J=8.6 Hz), 7.70 (d, 2H, J=7.8 Hz), 7.49 (d, 2H, J=7.8 Hz), 4.15 (s, 3H), 2.70 (s, 3H); ESMS (m/z): found, 401.

reactant | 2-(2,6-dichloro-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one | 6.2 mmol, 2.4 g | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C)C)N1)C | C19H16Cl2N4O
reactant | selenium dioxide | 18 mmol, 2.0 g | [Se](=O)=O | O2Se
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 2-(2,6-dichloro-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde | 1.8 g, 72% | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C=O)C)N1)C | C19H14Cl2N4O2
